US04510338
4-[1-(3-Trifluoromethylphenyl)-1-hydroxypropyl]-resorcin
To a Grignard reactant prepared from 14.6 g. of magnesium turnings and 135 g. of 3-trifluoromethylbromobenzene in 330 ml. of tetrahydrofurane a solution of 16.6 g. of 2',4'-dihydroxy-propiophenone in 83 ml. of tetrahydrofurane is added dropwise, at 50° C., and the mixture is stirred at this temperature for 30 additional minutes. After cooling, the reaction mixture is decomposed with a cold 20% aqueous ammonium chloride solution, with stirring. The phases are separated, the aqueous phase is extracted with tetrahydrofurane, the combined organic phases are washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is distilled off in vacuo. The residue is decolored with activated carbon in methanol, the solvent is filtered off, and distilled off under reduced pressure. If desired, the product is crystallized from a mixture of ethyl acetate and n-hexane to yield 26.6 g. of the named compound, melting at 137° to 138° C.

reactant | magnesium | [Mg] | Mg
reactant | 3-trifluoromethylbromobenzene | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | 2',4'-dihydroxy-propiophenone | OC1=C(C=CC(=C1)O)C(CC)=O | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 4-[1-(3-Trifluoromethylphenyl)-1-hydroxypropyl]-resorcin | FC(C=1C=C(C=CC1)C(CC)(O)C1=C(C=C(O)C=C1)O)(F)F | C16H15F3O3
